US07498460B2
Methyl 3-{[(3-carboxycyclohexyl)amino]carbonyl}-4-(3-{4-[3-(5,5-dimethyl-1,3-dioxan-2-yl)propoxy]phenyl}propoxy)benzoate
A solution of 70.0 mg of methyl 4-(3-{4-[3-(5,5-dimethyl-1,3-dioxan-2-yl)propoxy]-phenyl}propoxy)-3-({[3-(methoxycarbonyl)cyclohexyl]amino}carbonyl)benzoate in 1 ml each of methanol, THF and 2 molar sodium hydroxide solution is stirred at a temperature of 60° C. for 2 hours. Then 1.1 ml of 2 molar hydrochloric acid are added, and the reaction mixture is left to stand open at room temperature for 15 hours. A precipitate separates out and is filtered off with suction and washed with water. If the precipitation is incomplete, extraction with ethyl acetate is possible. The organic extract is dried over anhydrous sodium sulphate and evaporated. 53.3 mg of a solid are obtained.

reactant | methyl 4-(3-{4-[3-(5,5-dimethyl-1,3-dioxan-2-yl)propoxy]-phenyl}propoxy)-3-({[3-(methoxycarbonyl)cyclohexyl]amino}carbonyl)benzoate | 70.0 mg | CC1(COC(OC1)CCCOC1=CC=C(C=C1)CCCOC1=C(C=C(C(=O)OC)C=C1)C(=O)NC1CC(CCC1)C(=O)OC)C | C35H47NO9
reactant | hydrochloric acid | 2 molar, 1.1 ml | Cl | ClH
solvent | methanol | 1 ml | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 2 molar | [OH-].[Na+]
product | Methyl 3-{[(3-carboxycyclohexyl)amino]carbonyl}-4-(3-{4-[3-(5,5-dimethyl-1,3-dioxan-2-yl)propoxy]phenyl}propoxy)benzoate | 53.3 mg | C(=O)(O)C1CC(CCC1)NC(=O)C=1C=C(C(=O)OC)C=CC1OCCCC1=CC=C(C=C1)OCCCC1OCC(CO1)(C)C | C34H45NO9
